US06608072B1
a) 2-(4-Fluorophenyl)-5-aminoimidazo[4,5-b]pyridine
2,3,6-Triaminopyridine (Austin Products; 372 mg 3 mmol) and 4-fluorobenzoic acid (420 mg 3 mmol) are treated with polyphosphoric acid (30 g) at 150° C. for 1 h. The reaction mixture is poured on ice-water/NH3conc. and extracted with ethyl acetate three times. The combined organic phases are dried over Na2SO4, filtered and evaporated to dryness to yield the crude product, which is purified by SiO2 chromatography (acetone/cyclohexane 20/80 to 50/80) and rendered the title compound as pale yellow crystals (200 mg 29%)

reactant | 2,3,6-Triaminopyridine | 3 mmol, 372 mg | NC1=NC(=CC=C1N)N | C5H8N4
reactant | 4-fluorobenzoic acid | 3 mmol, 420 mg | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
product | 2-(4-Fluorophenyl)-5-aminoimidazo[4,5-b]pyridine | FC1=CC=C(C=C1)C=1NC=2C(=NC(=CC2)N)N1 | C12H9FN4
